US04782050
2. 1-fluoromethylbenzimidazole-2-carboxaldehyde
Using the procedure of Example 10B and starting with 2.87 g of 1-fluoromethyl-2-methylbenzimidazole and 1.94 g of selenium dioxide in 50 ml of dioxane, 2.58 g of the desired product was isolated.

reactant | 1-fluoromethyl-2-methylbenzimidazole | 2.87 g | FCN1C(=NC2=C1C=CC=C2)C | C9H9FN2
reactant | selenium dioxide | 1.94 g | [Se](=O)=O | O2Se
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 1-fluoromethylbenzimidazole-2-carboxaldehyde | 2.58 g | FCN1C(=NC2=C1C=CC=C2)C=O | C9H7FN2O
